US05990105
0.52 g (0.00133 Mol) 4-(2,6-Dibromo-pyridine-4-sulfonyl)-phenylamine and 0.45 g (0.003 Mol) NaI were stirred in aqueous HI (10 ml) at 120° C. for 5 h. Then the reaction mixture was diluted with water, extracted with ethyl acetate, the organic phase was washed with sat. bicarbonate and brine, dried over MgSO4 and evaporated. After chromatography on SiO2 with ethyl acetate hexane 1:3 and drying in a high vacuum it was obtained 0.255 g (42%) 4-(2,6-diiodo-pyridin-4-ylsulfanyl)-phenylamine as a brown solid; mp.: 175-176° C.

reactant | 4-(2,6-Dibromo-pyridine-4-sulfonyl)-phenylamine | 0.00133 Mol, 0.52 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | NaI | 0.003 Mol, 0.45 g | [Na+].[I-]
reactant | HI | 10 ml | I | HI
solvent | water | O | H2O
product | 4-(2,6-diiodo-pyridin-4-ylsulfanyl)-phenylamine | 0.255 g, 42% | IC1=NC(=CC(=C1)SC1=CC=C(C=C1)N)I | C11H8I2N2S
